US04492794
To a solution of 2-guanidino-4-hydroxymethylthiazole (0.69 g) in pyridine (5 ml) is gradually added 4-toluenesulfonyl chloride (0.763 g), and the resultant mixture is stirred at room temperature for 4 hours. The resultant mixture is concentrated in vacuum, and the residue is chromatographed on a column of silica gel, which is eluted with methanol. The eluate is concentrated in vacuum to give 2-guanidino-4-(4-toluenesulfonyloxymethyl)thiazole (0.6 g) as an oil. The yield is 45.8%.

reactant | 2-guanidino-4-hydroxymethylthiazole | 0.69 g | N(C(=N)N)C=1SC=C(N1)CO | C5H8N4OS
reactant | 4-toluenesulfonyl chloride | 0.763 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-guanidino-4-(4-toluenesulfonyloxymethyl)thiazole | 0.6 g, yield is 45.8% | N(C(=N)N)C=1SC=C(N1)COS(=O)(=O)C1=CC=C(C=C1)C | C12H14N4O3S2
